US08530663B2
Triethylamine (280 mL, 2.0 mol, 2.5 eq.) was added, in several batches, to a solution of phenylamine (75.0 g, 805.3 mmol, 1.0 eq.) in DCM (550 mL) under nitrogen. This solution was cooled to −78° C. then trifluoromethanesulfonic anhydride (270 mL, 1.6 mol, 2.0 eq.) was added. The resulting solution was stirred for 2 hours while the temperature was maintained at −78° C. in an EtOH/liquid N2 bath. The resulting solution was stirred while the temperature was allowed to increase to room temperature. The mixture was stirred overnight at room temperature, then washed with 10% HCl (3×300 mL). The organic layer was then washed with saturated aqueous NaCl (3×300 mL). The combined organic layers were dried over MgSO4 and concentrated under vacuum. The crude product was purified by re-crystallization from MeOH to yield N-phenyl-bis(trifluoromethanesulfonimide) (140 g) as a pink solid.

reactant | Triethylamine | 2.0 mol, 280 mL, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | phenylamine | 805.3 mmol, 75.0 g, 1.0 eq. | C1(=CC=CC=C1)N | C6H7N
reactant | trifluoromethanesulfonic anhydride | 1.6 mol, 270 mL, 2.0 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 550 mL | C(Cl)Cl | CH2Cl2
product | N-phenyl-bis(trifluoromethanesulfonimide) | 140 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
